US05304644
(a) 5-chloro-2-(2-nitrophenoxy)benzaldehyde
To a stirred solution of 5-chlorosalicylaldehyde (4.00 g) in N,N-dimethylformamide (40 mL) under nitrogen was added sodium hydride in portions (0.64 g). To the resulting reddish solution was added a solution of 1-fluoro-2-nitrobenzene (3.50 g) in N,N-dimethylformamide (10 mL) in one lot. The reaction was then stirred at 63° C. under nitrogen for 24 hours. The reaction was evaporated under vacuum, and the residue was partitioned between chloroform and 1 N NaOH. The layers were separated, and the aqueous layer was extracted once more with chloroform. The combined chloroform extracts were washed with 1 N NaOH, water, 1 N HCl, water, and brine, dried over magnesium sulfate, and evaporated under vacuum. The residue was crystallized from cyclohexane to yield the title compound as a light yellow solid. Mp: 103°-105° C.

reactant | 5-chlorosalicylaldehyde | 4.00 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-fluoro-2-nitrobenzene | 3.50 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-chloro-2-(2-nitrophenoxy)benzaldehyde | ClC=1C=CC(=C(C=O)C1)OC1=C(C=CC=C1)[N+](=O)[O-] | C13H8ClNO4
